### ISSUE TITLE
cases tactic needs to check full body before updating infoview

### ISSUE THREAD

**Issue by MoritzBeroRoos** [leanprover/lean4#12853]
### Prerequisites

* [ X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X ] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [ X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `cases` tactic seems to need to check the full proof of its body until the infoview shows any intermediate goals, altough it seems that all the neccessary information is already there.
This produces considerable slow downs when writing proofs if the rest of the body is slow
or the editing breaks proofs below which makes them time out (e.g. a `grind`).

The same behaviour applies to the suggestions of `try?` in such a cases.
The error-lens extension shows that a proof has already been found, but one doesn't get the suggestion pop-up
until the full body is elaborated.

### Steps to Reproduce

```lean

/- Issue:
   In the following, modify the simp to make it recheck, then put your cursor on
   the next line.
   `Expected behaviour`: The infoview updates almost immediately.
   `Current behaviour`: All the proof steps below the cursor are checked, and
   only when this is finished (after the 8 second sleep) the infoview updates.
   This can take a very long time when developing real world proofs. -/

/-- This structure only exsists, to produce a `cases` in the following proof. -/
structure myNat where
  num : Nat

theorem slow1 (m : myNat): True := by
  rcases m with num
  have : True := by simp
  -- <-- put cursor here after modifing the `simp` above to recheck
  sleep 8000
  exact this

-- /-- Without cases, it is fast. -/
-- theorem fast1 (m : myNat): True := by
--   have : True := by simp
--   -- <-- put cursor here after modifing the `simp` above to recheck
--   sleep 8000
--   exact this

-- /-- rcases doesn't have this problem. -/
-- theorem fast2 (m : myNat): True := by
--   rcases m with num
--   have : True := by simp
--   -- <-- put cursor here after modifing the `simp` above to recheck
--   sleep 8000
--   exact this


-- /-- A variation on slow1. -/
-- theorem slow2 : True := by
--   have : True ∨ True := by sorry
--   cases this with
--   | inl h =>
--     simp
--     -- <-- put cursor here after modifing the `simp` above to recheck
--   | inr h =>
--     sleep 8000
--     simp

```

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
